* source DDDD
X_U2B         N03154 N03202 OUT2 VCCP VCCN awbne5532_3 PARAMS:                 
+                  
R_R9         0 N03202  20k  
R_R1         N00848 N00553  10k  
R_R5         N01050 OUT1  100k  
R_R2         N00553 N00735  100k  
C_C1         0 N03108  10n  
X_U1A         N00660 N00553 N00735 VCCP VCCN awbne5532_3 PARAMS:               
+                    
R_R7         OUT1 N03108  10k  
X_U1B         N01386 N01050 OUT1 VCCP VCCN awbne5532_3 PARAMS:                 
+                  
V_V3         N00848 0 DC 0Vdc AC 10mVac 
R_R10         N03202 OUT2  20k  
R_R6         0 N01386  10k  
V_V1         VCCP 0 15
R_R3         0 N00660  10k  
R_R8         N03108 N03154  10k  
R_R11         0 N03154  20k  
V_V2         VCCN 0 -15
C_C2         0 N03154  10n  
R_R4         N00735 N01050  10k  
