* source TEST8
V_V17         N45631 0  
+SIN 0 12 7.5 0 0 0
C_C8         0 N51471  100u  
X_U1         N14718 N15001 VCCP VCCN N14780 uA741
V_V15         VCCP 0 15
X_U5         N32753 N32831 VCCP VCCN N32847 uA741
Q_Q1         VCCP N36569 N37948 BC337_1 
R_R6         0 N16958  180k  
X_U4         N30951 N30913 VCCP VCCN N30965 uA741
R_R4         N15001 N14780  10.1k  
X_D9         N51353 N51471 awb1n4002 PARAMS:                
X_D1         N299201 N27921 awbbzx55c13 PARAMS:               
R_R22         N32809 N332970  2.2k  
X_D2         N299201 0 awbbzx55c13 PARAMS:               
D_D5         N332970 N32977 D1N4148_1 
R_R17         0 N32831  6.8k  
R_R12         N27921 N30913  180k  
C_C7         N32977 N33029  0.1u  
C_C9         N55978 0  100u  
R_R21         N32977 N33029  1meg  
D_D7         N45631 N38962 D1N4148 
X_D11         0 N51353 awb1n4002 PARAMS:                
V_V16         VCCN 0 -15
R_R18         N32847 N32809  4.7k  
R_R7         N30965 N27837  10k  
R_R13         0 N30951  180k  
C_C3         N16780 N17102  0.1u  
X_D3         N328751 N32809 awbbzx55c13 PARAMS:               
R_R27         0 N37948  47  
R_R23         N36569 VCCP  5k  
R_R1         N145651 N14780  150k  
C_C5         0 N14718  0.01u  
R_R9         N27837 N27921  20k  
R_R26         VCCN N38962  5k  
X_U2         N16958 N16780 VCCP VCCN N17102 uA741
R_R28         0 N52991  10k  
X_D4         N328751 0 awbbzx55c13 PARAMS:               
R_R29         0 N56016  10k  
V_V18         N51046 N51353  
+SIN 0 20 50 0 0 0
X_D8         N51046 N51471 awb1n4002 PARAMS:                
C_C4         N14718 N145651  0.01u  
Q_Q2         VCCN N38962 N37948 BC327_1 
C_C6         N30913 N30965  0.1u  
R_R11         N29567 N27921  4.7k  
X_U6         N33015 N32977 VCCP VCCN N33029 uA741
X_U3         N27837 N28907 VCCP VCCN N29567 uA741
R_R14         N30913 N30965  1meg  
V_V19         N56028 N56036  
+SIN 0 20 50 0 0 0
X_D10         0 N51046 awb1n4002 PARAMS:                
D_D6         N36569 N45631 D1N4148 
R_R15         N33029 N32753  10k  
R_R5         N14780 N16780  180k  
R_R19         N32809 N32977  180k  
X_U8         N55978 N56016 0 LM7915C
X_D12         N55978 N56028 awb1n4002 PARAMS:                
R_R2         0 N14718  150k  
R_R16         N32753 N32809  20k  
X_D13         N55978 N56036 awb1n4002 PARAMS:                
R_R8         N16780 N17102  1meg  
X_D14         N56028 0 awb1n4002 PARAMS:                
R_R20         0 N33015  180k  
R_R3         0 N15001  5k  
X_U7         N51471 N52991 0 LM7815C
R_R10         0 N28907  6.8k  
X_D15         N56036 0 awb1n4002 PARAMS:                
