* source 1-3
Q_Q1         VOUT VBE 0 Q2N2222
V_Vcc         N00135 0 10
R_R1         N00112 VBE  100k  
R_R2         VOUT N00135  10k  
V_Vbb         N00112 0 2.7
