* source 4-8
R_R1         N00143 N00161  22  
R_R2         0 N00143  1k  
E_E1         N00161 0 N00143 0 9
V_V1         N02544 0 10
V_V2         N02544 N00143 0Vdc
