* source 24
R_R1         N00483 N00620  10  
R_R2         N00514 N00483  20  
R_R3         N00483 N00503  5  
R_R4         N00514 N00503  50  
R_R5         0 N00514  25  
E_E1         N00503 0 N00483 N00620 1.5
R_R6         N00620 0  100  
V_V1         N00483 0 100Vdc
V_V2         N00620 N00514 50Vdc
