* source 24
V_V3         N07759 0  
+SIN 0 1 50 0 0 0
R_R4         0 N060814  100k  
V_V2         N07626 0 15Vdc
X_U2         N07415 N05937 N07626 N060816 N07242 N08157 N060814 LM301A
C_C1         N05937 N08157  150p  
R_R2         N07759 N05937  10k  
X_D2         N05937 N07242 awb1n914 PARAMS:                
V_V4         N060816 0 -15
X_D1         N07030 N05937 awb1n914 PARAMS:                
X_D3         N07030 N07242 awbbzx85c3v3 PARAMS:               
V_V1         N06910 0 -15
R_R3         0 N07415  10k  
R_R1         N06910 N07030  5.1k  
