* source P63-7-3
X_U5         0 N024071 Sw_tOpen PARAMS: tOpen=50m ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R1         N00544 N02589  20k  
V_V1         N00544 0 10
C_C1         N02589 0  0.1u IC=0  
R_R6         N024071 N02589  30k  
