* source TEST14
R_R1         0 OUT  {Rsweep}  
L_L1         IN N05727  10m  
V_V1         IN 0 DC 0Vdc AC 1Vac 
C_C1         N05727 OUT  100n  
.PARAM  Rsweep=1k
