* source CHAP7 7-4-7
C_C1         0 N02022  100n  
R_R3         N02022 N02008  50k  
R_R4         N018060 N02022  50k  
C_C2         0 N02008  100n  
V_V2         N018562 0 15Vdc
V_V1         N018060 0 DC 0Vdc AC 1Vac 
V_V3         N018563 0 -15Vdc
R_R1         0 N01900  100k  
X_U1A         N02008 N01900 N018562 N018563 N01926 LM358
R_R2         N01926 N01900  100k  
