* source P108-2-4-1
V_V4         N00839 0  
+SIN 0 10m 5000k 0 0 0
R_R1         N00247 N00279  5.1k  
R_R2         N00279 N00163  12k  
R_R3         N04032 0  2.3k  
C_C3         0 N04032  100u   
X_Q1         N00247 N00163 N04032 awb2n3904 PARAMS:                            
+                 
R_R5         N00163 0  5k  
V_V1         N00279 0 12
V_V3         N00839 N002370 0Vdc
R_R4         0 OUT  5.1k  
C_C1         N00247 OUT  10u   
C_C2         N002370 N00163  100u   
