* source P108-2-4-1
E_DIFF1         N24901 0 VALUE {V(0,UN)}
E_MULT1         N24919 0 VALUE {V(N24915)*V(N24901)}
V_V4         N25782 0 1v
V_CONST1         N24915 0 DC 1meg
R_R16         N25782 UN  1k  
E_LIMIT1         N24939 0 VALUE {LIMIT(V(N24919),-15,15)}
R_Rid         0 UN  100k  
R_Ro         N24939 VO  50  
R_R17         UN VO  10k  
C_C1         0 VO  318u   
