* source P108-2-4-1
V_V4         N13319 0 1Vdc
R_R17         N13384 N14719  10k  
V_V5         N129902 0 15Vdc
R_R18         0 N14719  4k  
X_U1         N13384 0 N129902 N14097 N14719 uA741
V_V6         N14097 0 -15
R_R16         N13319 N13384  1k  
