* source P108-2-4-1
V_V10         N17611 0 15
R_R20         N17549 N17667  10k  
V_V4         N13319 N130851 1Vdc
R_R21         0 N17667  4k  
R_R17         N13384 N14719  10k  
X_U2         0 N17549 N17611 N174833 N17667 uA741
V_V11         N175111 0  
+SIN 0 10m 50 0 0 0
V_V7         N130851 0  
+SIN 0 10m 50 0 0 0
V_V5         N129902 0 15Vdc
V_V8         N17543 N175111 1Vdc
R_R19         N17543 N17549  1k  
R_R18         0 N14719  4k  
X_U1         N13384 0 N129902 N14097 N14719 uA741
V_V6         N14097 0 -15
R_R16         N13319 N13384  1k  
V_V9         N174833 0 -15Vdc
