* source SA
V_V2         N05698 N05668 4Vdc
I_I2         0 N05758 DC 2Adc  
E_E2         N05863 0 N05668 0 5
R_R3         N05758 N05698  1  
R_R4         N05698 N05863  3  
R_Ux1         0 N05668  2  
