* source TEST8
V_V13         N11552 0 15
V_V14         IN 0  
+PWL 0 0 1 15 2 -15 3 15 
R_R7         0 N10412  1k  
V_V12         N11195 0 -15
R_R9         IN N10758  1k  
X_U1C         N10412 N10758 N11552 N11195 OUT LM324
R_R8         N10412 OUT  10k  
