* source TEST8
X_U1C         N14641 N14910 VCCP VCCN OUT1 LM324
R_R24         IN1 N20647  3.3k  
R_R11         N141870 N142460  200k  
V_V14         N14137 N14207  
+SIN 0 310 50 0 0 0
R_R21         OUT3 N17702  10k  
R_R12         N141190 N142880  200k  
V_V17         N17702 0 3.3
V_V15         VCCP 0 15
R_R15         0 N14641  10k  
R_R13         N142460 N14641  200k  
X_U2C         N16264 N15825 VCCP VCCN OUT2 LM324
R_R17         N16264 OUT2  470k  
V_V16         VCCN 0 -15
R_R9         N14137 N141190  200k  
X_U3C         N20693 N20647 VCCP VCCN N20681 LM324
R_R20         OUT2 N17372  10k  
R_R14         N142880 N14910  200k  
R_R19         OUT1 N15825  3.3k  
R_R18         0 N16264  3.3k  
V_V18         IN1 0  
+PWL 0 0 10m 15 20ms -15 30m 15 
R_R16         N14910 OUT1  10k  
R_R22         N20693 N20681  470k  
R_R10         N14207 N141870  200k  
Q_Q1         OUT3 N17372 0 BC847_1 
R_R23         0 N20693  3.3k  
