* source TEST8
V_V13         N11552 0 15
R_R7         0 N10412  1k  
V_V12         N11195 0 -15
R_R9         N13156 N10758  1k  
X_U1C         N10412 N10758 N11552 N11195 N10477 LM324
R_R8         N10412 N10477  10k  
V_V10         N13156 0 0Vdc
