* source PROJECT
R_R1         0 N15601  4 TC=0,0 
R_R2         0 N14479  6 TC=0,0 
R_R3         N15601 N14479  2 TC=0,0 
R_R4         N14479 N14812  2 TC=0,0 
I_I1         0 N15601 DC 5A  
E_E1         N14479 N15601 N15601 0 2
R_R5         0 N14812  100k TC=0,0 
R_R8         0 N16193  4 TC=0,0 
R_R6         N16193 N16205  2 TC=0,0 
R_R7         N16205 0  2 TC=0,0 
E_E2         N16205 N16193 N16193 0 2
R_R9         0 N16205  6 TC=0,0 
I_I2         0 N16193 DC 5A  
