* source PROJECT3
V_V1         N01730 0 DC 0Vdc AC 1Vac 
R_R1         N01730 N00471  999k  
R_R2         N004201 N00471  1k  
C_C1         N004201 0  {Cval} IC=10 
.PARAM  Cval=1n
