* source PROJECT4
R_R3         0 N000400  3k  
V_Vdd         N01999 0 0Vdc
M_M1         N04503 N01999 N000400 N000400 M2N6660
R_R2         N01301 N04503  4.7k  
R_R6         N04239 N01999  1M  
V_Ud         N01301 0 0Vdc
R_R7         0 N04503  10K  
R_R4         N04239 N01301  100k  
R_R5         0 N04239  20k  
