* source PROJECT5
V_V2         0 N00351 15
X_Q1         N00317 N00250 OUT awbbc337 PARAMS:                                
+             
V_V3         IN 0  
+SIN 0 10m 1k 0 0 0
V_V1         N00317 0 15
X_Q2         N00351 N00256 OUT awbbc327 PARAMS:                                
+            
R_R1         N00250 N00317  10K  
R_R2         N00351 N00256  10K  
R_R3         N00351 OUT  10K  
D_D2         N00250 IN D1N4148_1 
D_D3         IN N00256 D1N4148_1 
